US07687515B2
To a solution of 3,4-diamino-6-(4-ethoxy-3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile (1.86 g, 5.78 mmol) and 2-chloro-1,1,1-triethoxyethane (3.41 g, 17.3 mmol) in acetonitrile (40 ml) was added ytterbium triflate (180 mg, 5 mol %) and the mixture heated to reflux overnight. The mixture was concentrated under reduced pressure before partitioning between ethyl acetate and water. The organic layer was dried over sodium sulfate and concentrated before addition of diethylether. The precipitate was filtered and dried under a stream of air to afford 6-(4-ethoxy-3-trifluoromethyl-phenyl)-2-(chloromethyl)-1H-imidazo[4,5,c]pyridine-4-carbonitrile (1.2 g). 1H NMR (DMSO): δ 8.42 (s, 1H) 8.38 (d, 1H) 8.34 (s, 1H) 7.40 (d, 1H) 5.05 (s, 2H) 4.26 (q, 2H) 1.38 (t, 3H). MS m/z 381.1 (M+1)

reactant | 3,4-diamino-6-(4-ethoxy-3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile | 5.78 mmol, 1.86 g | NC=1C(=NC(=CC1N)C1=CC(=C(C=C1)OCC)C(F)(F)F)C#N | C15H13F3N4O
reactant | 2-chloro-1,1,1-triethoxyethane | 17.3 mmol, 3.41 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | ytterbium triflate | 180 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | 6-(4-ethoxy-3-trifluoromethyl-phenyl)-2-(chloromethyl)-1H-imidazo[4,5,c]pyridine-4-carbonitrile | 1.2 g | C(C)OC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=C(N2)CCl)C(F)(F)F | C17H12ClF3N4O
